.subckt ncell_leadacid_sepgnd in+ in- soc params:
+ a=1.33e-01 b=8.79e-01 c=8.99e-07 d=8.95e-01 e=-1.02 f=-1.10e-03 g=1.68
+ capah=2.78u
+ Rsoc=1Meg
+ soc=80
+ Rdis=6m Rchg=200m
+ vclip=2.38
+ n=6 

* Models
.model Db D(Ron=1m Roff=1G Vfwd=1m  epsilon=1u revepsilon=1u N=0.001)

* Functions
.func vcell(x)  {(a*log(b*x) + c*d**(e*x) + f*x +g)*n}

*internal parameters
.param Capa_soc={3600*{CAPAH}/(-{Rsoc}*log(1-100/{Rsoc}))}
.param nvclip={6*vclip}

* Subcircuit Body
Db1 0 SOC Db
Db2 SOC N005 Db
Csoc SOC 0 {Capa_soc}
Rsoc SOC 0 {Rsoc}
Vsoc N005 0 110
B1 N004 in- V=vcell(V(SOC))
V1 N001 N004 0
Ddischg N001 N002 Db
Dchg N003 N001 Db
Db3 in- N001 Db
Rdischg in+ N002 {Rdis}
Rchg in+ N003 {Rchg}
Db4 N001 N006 Db
Voverchg N006 in- {nvclip}
B2 0 SOC I=I(V1)
.ends ncell_leadacid_sepgnd


